US07550544B2
1-(Bromomethyl)-2-chloro-4-fluorobenzene
A mixture of 77.6 g (0.54 mol) of 2-chloro-4-fluorotoluene, 95.6 g (0.54 mol) of N-bromosuccinimide, 1 g of benzoyl peroxide, and 1000 ml of carbon tetrachloride were refluxed for 3 h. The resulting mixture was cooled to room temperature and then filtered through a glass frit (G3). The precipitate was additionally washed with 3×100 ml of carbon tetrachloride. The combined filtrate was evaporated to dryness. Fractional distillation of the residue gave pure title product, bp 97-99° C./10 mm Hg. Yield 106 g (88%).

reactant | 2-chloro-4-fluorotoluene | 0.54 mol, 77.6 g | ClC1=C(C=CC(=C1)F)C | C7H6ClF
reactant | N-bromosuccinimide | 0.54 mol, 95.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 1000 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(Bromomethyl)-2-chloro-4-fluorobenzene | BrCC1=C(C=C(C=C1)F)Cl | C7H5BrClF
